US08912188B2
To a solution of (S)-methyl 3-(methyl(1-phenylethyl)amino)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (320 mg, 0.95 mmol) in dichloromethane (30 mL) was added pyridine (313 mg, 3.96 mmol), and Tf2O (559 mg, 1.98 mmol). The resulting solution was stirred overnight at room temperature and then concentrated under vacuum to get a residue, which was purified via silica gel chromatography (1% to 5% ethyl acetate in petroleum ether) to give (S)-methyl 3-(methyl(1-phenylethyl)amino)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate as a yellow solid (432 mg, crude).

reactant | (S)-methyl 3-(methyl(1-phenylethyl)amino)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 0.95 mmol, 320 mg | CN(C=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O)[C@@H](C)C1=CC=CC=C1 | C19H19N3O3
reactant | pyridine | 3.96 mmol, 313 mg | N1=CC=CC=C1 | C5H5N
reactant | Tf2O | 1.98 mmol, 559 mg | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (S)-methyl 3-(methyl(1-phenylethyl)amino)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate | CN(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)OS(=O)(=O)C(F)(F)F)[C@@H](C)C1=CC=CC=C1 | C20H18F3N3O5S
